US07576135B2
4-morpholinobenzoic acid methyl ester
Under ice cooling, thionyl chloride (436 μL) was added dropwise to methanol (10 mL). 4-Morpholinobenzoic acid (207 mg) was added thereto, and the resultant mixture was heated under reflux for 1.5 hours. The solvent was distilled away under reduced pressure. Methylene chloride and water were added to the residue for partitioning the mixture. The organic layer was dried over sodium sulfate anhydrate. The solvent was distilled away under reduced pressure, whereby the title compound was obtained.

reactant | thionyl chloride | 436 μL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-Morpholinobenzoic acid | 207 mg | O1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C11H13NO3
reactant | methanol | 10 mL | CO | CH4O
product | 4-morpholinobenzoic acid methyl ester | COC(C1=CC=C(C=C1)N1CCOCC1)=O | C12H15NO3
